US07820665B2
Step 1. N-(5-bromopyridin-2-yl)-4-methylbenzenesulfonamide
To a 500 mL round-bottomed flask was added 2-amino-5-bromopyridine (15.0 g, 86.7 mmol, Aldrich, St. Louis, Mo.), pyridine (150 mL, 1858 mmol) and finally para-toluenesulfonyl chloride (24.8 g, 130 mmol, Aldrich, St. Louis, Mo.) at rt. The mixture was stirred at 90° C. After 24 h, the mixture was allowed to cool to rt and then poured into water (600 mL). A precipitate formed and the mixture was stirred for 15 min and then filtered. The filtercake was washed with water and hexane and then dried under vacuum to afford the title compound as an off-white solid (27.8 g, 98%) that was carried on without further purification.

reactant | 2-amino-5-bromopyridine | 86.7 mmol, 15.0 g | NC1=NC=C(C=C1)Br | C5H5BrN2
reactant | pyridine | 1858 mmol, 150 mL | N1=CC=CC=C1 | C5H5N
reactant | para-toluenesulfonyl chloride | 130 mmol, 24.8 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | water | 600 mL | O | H2O
product | N-(5-bromopyridin-2-yl)-4-methylbenzenesulfonamide | 27.8 g, 98% | BrC=1C=CC(=NC1)NS(=O)(=O)C1=CC=C(C=C1)C | C12H11BrN2O2S
